US05204346
A two-phase mixture of 6-(2-phenylethynyl)-3-phenylsulfonylpyridazine (23.3 g), 1-aminopyridinium iodide (90%; 26.9 g), sodium hydroxide (11.6 g), and benzyltrimethylammonium chloride (1.35 g) in a mixture of methylene chloride (233 ml) and water (233 ml) was stirred for 2 hours at room temperature. Water (233 ml) was added to the reaction mixture, and the mixture was acidified with 36% hydrochloric acid (20 ml). The organic layer was separated, washed twice with water and once with sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and concentrated. The residue was washed with hot ethanol (300 ml) to give 3-(3-phenylsulfonylpyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine (20.8 g). An analytical sample was prepared by recrystallization from ethyl acetate.

reactant | 6-(2-phenylethynyl)-3-phenylsulfonylpyridazine | 23.3 g | C1(=CC=CC=C1)C#CC1=CC=C(N=N1)S(=O)(=O)C1=CC=CC=C1 | C18H12N2O2S
reactant | 1-aminopyridinium iodide | 26.9 g | [I-].N[N+]1=CC=CC=C1
reactant | sodium hydroxide | 11.6 g | [OH-].[Na+]
reactant | hydrochloric acid | 20 ml | Cl | ClH
catalyst | benzyltrimethylammonium chloride | 1.35 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | methylene chloride | 233 ml | C(Cl)Cl | CH2Cl2
solvent | water | 233 ml | O | H2O
solvent | Water | 233 ml | O | H2O
product | 3-(3-phenylsulfonylpyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine | 20.8 g | C1(=CC=CC=C1)S(=O)(=O)C=1N=NC(=CC1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C23H16N4O2S
